*****************************************************************************
* CDL Netlist:
* Cell Name: BANDGAP
* Netlisted on: Sep 17 17:12:31 2025
*****************************************************************************

*****************************************************************************
* BIPOLAR Declarations
*****************************************************************************
*.BIPOLAR
*.RESI = 2000.000000
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.SCALE METER


*****************************************************************************
* Parameter Statement
*****************************************************************************
.PARAM


*******************************************************************************
* Sub-Circuit Netlist:                                                        *
*                                                                             *
* Library: Bio_up                                                             *
* Cell   : OP_N33                                                             *
* View   : schematic                                                          *
* Last Time Saved: Sep  2 10:26:40 2025                                       *
*******************************************************************************
.subckt OP_N33 OUT VCC33 VSS IN_N IN_P NCUR
.ends OP_N33


*******************************************************************************
* Sub-Circuit Netlist:                                                        *
*                                                                             *
* Library: Bio_up                                                             *
* Cell   : TRIM5                                                              *
* View   : schematic                                                          *
* Last Time Saved: Sep  2 11:22:27 2025                                       *
*******************************************************************************
.subckt TRIM5 OUT VSS DEC_0 DEC_1 DEC_2 DEC_3 DEC_4 DEC_5 DEC_6 DEC_7 DEC_8
+DEC_9 DEC_10 DEC_11 DEC_12 DEC_13 DEC_14 DEC_15 IN
.ends TRIM5


*******************************************************************************
* Sub-Circuit Netlist:                                                        *
*                                                                             *
* Library: Bio_up                                                             *
* Cell   : OP_P4                                                              *
* View   : schematic                                                          *
* Last Time Saved: Sep  2 11:14:50 2025                                       *
*******************************************************************************
.subckt OP_P4 OUT VCC18 VSS CUR IN_N IN_P
.ends OP_P4


*******************************************************************************
* Sub-Circuit Netlist:                                                        *
*                                                                             *
* Library: Bio_up                                                             *
* Cell   : OP_P7                                                              *
* View   : schematic                                                          *
* Last Time Saved: Sep  4 10:19:01 2025                                       *
*******************************************************************************
.subckt OP_P7 OUT VDD3p3 VSS IBIAS IN_N IN_P
.ends OP_P7


*******************************************************************************
* Sub-Circuit Netlist:                                                        *
*                                                                             *
* Library: Bio_up                                                             *
* Cell   : VI8T2                                                              *
* View   : schematic                                                          *
* Last Time Saved: Sep  2 10:20:03 2025                                       *
*******************************************************************************
.subckt VI8T2 Bias_N1 Bias_N2 Bias_P1 Bias_P2 IBIAS_CTRL IOUT1 IOUT2 AGND AVDD
+VBGR
XI0 OPA_VOUT AVDD AGND IBIAS IBIAS_CTRL VBGR OP_P7
.ends VI8T2


*******************************************************************************
* Sub-Circuit Netlist:                                                        *
*                                                                             *
* Library: Bio_up                                                             *
* Cell   : DECODER_B                                                          *
* View   : schematic                                                          *
* Last Time Saved: Sep 17 15:58:03 2025                                       *
*******************************************************************************
.subckt DECODER_B D0 D1 D2 D3 D4 D5 D6 D7 D8 D9 D10 D11 D12 D13 D14 D15 AGND
+AVDD DBG[3] DBG[2] DBG[1] DBG[0]
.ends DECODER_B


*******************************************************************************
* Main Circuit Netlist:                                                       *
*                                                                             *
* Library: Bio_up                                                             *
* Cell   : BANDGAP                                                            *
* View   : schematic                                                          *
* Last Time Saved: Sep 17 16:01:14 2025                                       *
*******************************************************************************
.subckt BANDGAP AGND IBIAS1 IBIAS2 V2P5V VREF AVDD DBG[3] DBG[2] DBG[1] DBG[0]
+RI_OUT
XI2 V2P5V AVDD AGND V2P5V VBG2_5 NN OP_N33
XI1 AGND AGND DEC_0 DEC_1 DEC_2 DEC_3 DEC_4 DEC_5 DEC_6 DEC_7 DEC_8 DEC_9
+DEC_10 DEC_11 DEC_12 DEC_13 DEC_14 DEC_15 VBG1_0 TRIM5
XI0 OP_OUT AVDD AGND IBIAS_OP net26 net47 OP_P4
XI3 Bias_N1 Bias_N2 Bias_P1 Bias_P2 RI_OUT IBIAS1 IBIAS2 AGND AVDD VBG1_0 VI8T2
XI4 DEC_0 DEC_1 DEC_2 DEC_3 DEC_4 DEC_5 DEC_6 DEC_7 DEC_8 DEC_9 DEC_10 DEC_11
+DEC_12 DEC_13 DEC_14 DEC_15 AGND AVDD DBG[3] DBG[2] DBG[1] DBG[0] DECODER_B
.ends BANDGAP
